US06083479
a) 4-(11-Oxaundecyl)-benzoic acid
38.83 g (144.8 mmol) of decyl iodide is added to a mixture of 20 g (144.8 mmol) of 4-hydroxybenzoic acid and 46 g (434.4 mmol) of sodium carbonate in 400 ml of dimethylformamide, and it is heated for 4 hours to 70° C. Solid is filtered out, the filtrate is evaporated to the dry state in a vacuum, and the residue is taken up in 300 ml of methylene chloride, and 300 ml of 5% aqueous hydrochloric acid is added. It is thoroughly stirred, the organic phase is separated, and it is dried on magnesium sulfate. Then, the organic phase is evaporated to the dry state. The residue is chromatographed on silica gel (mobile solvent: n-hexane-acetone=20:1).

reactant | decyl iodide | 144.8 mmol, 38.83 g | C(CCCCCCCCC)I | C10H21I
reactant | 4-hydroxybenzoic acid | 144.8 mmol, 20 g | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | sodium carbonate | 434.4 mmol, 46 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
product | 4-(11-Oxaundecyl)-benzoic acid | C(CCCCCCCCCO)C1=CC=C(C(=O)O)C=C1 | C17H26O3
